US07276518B2
N′-(9H-Fluoren-9-yl)-N,N-dimethyl-1-thiophen-2-yl-cyclohexane-1,4-diamine dihydrochloride, cis/trans mixture
362 mg 9-Aminofluorene and 434 mg 4-dimethylamino-4-thiophen-2-yl-cyclohexanone were dissolved in dry 1,2-dichloroethane (10 ml) under argon. Glacial acetic acid (2 mmol) and 600 mg sodium triacetoxyborohydride were added to this mixture and the mixture was stirred for 24 hours at RT. For working up, the reaction mixture was concentrated and the residue was adjusted to pH 11 with five molar sodium hydroxide solution. The alkaline phase was diluted with water (10 ml) and extracted with ethyl acetate (5×20 ml). The combined extracts were dried over sodium sulfate and filtered and the filtrate was concentrated. The crude product was chromatographed over silica gel with ethyl acetate/ethanol (1:1). 440 mg of a cis/trans mixture of N′-(9H-fluoren-9-yl)-N,N-dimethyl-1-thiophen-2-yl-cyclohexane-1,4-diamine were obtained as a white solid, from which the corresponding dihydrochloride was precipitated with 1.85 Methanolic hydrochloric acid (1.55 ml) in 2-butanone (10 ml) (460 mg; m.p. 202-205° C.).

reactant | 9-Aminofluorene | 362 mg | NC1C2=CC=CC=C2C=2C=CC=CC12 | C13H11N
reactant | 4-dimethylamino-4-thiophen-2-yl-cyclohexanone | 434 mg | CN(C1(CCC(CC1)=O)C=1SC=CC1)C | C12H17NOS
reactant | acetic acid | 2 mmol | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 600 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | N′-(9H-Fluoren-9-yl)-N,N-dimethyl-1-thiophen-2-yl-cyclohexane-1,4-diamine dihydrochloride | 440 mg | Cl.Cl.C1=CC=CC=2C3=CC=CC=C3C(C12)NC1CCC(CC1)(N(C)C)C=1SC=CC1 | InChI=1S/C25H28N2S.2ClH/c1-27(2)25(23-12-7-17-28-23)15-13-18(14-16-25)26-24-21-10-5-3-8-19(21)20-9-4-6-11-22(20)24;;/h3-12,17-18,24,26H,13-16H2,1-2H3;2*1H
